US04093812
Add 15.4 g of 3-(5-nitro-2-furyl)-1H-pyrazole-4-carbonitrile portionwise to a suspension of 2.5 g of sodium hydride (80% in liquid paraffin) in 90 ml of dimethylformamide while stirring and under nitrogen at from -2° C to -5° C. Stir the thus-obtained reaction mixture for 30 minutes and then add dropwise thereto a solution of 11.8 g of methyl iodide in 20 ml of dimethylformamide. After stirring for 30 minutes, admix therewith 0.6 g of glacial acetic acid and stir the resulting solution into 220 g of ice and water. Remove formed precipitate by vacuum filtration and recrystallize residue twice from dimethylformamide and water. Dry the residue in vacuo. Recrystallize the resulting 13.5 g of product three more times from dimethylformamide and water to obtain a 57% yield of 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carbonitrile [m.p. 176.5° to 177.5° C].

reactant | 3-(5-nitro-2-furyl)-1H-pyrazole-4-carbonitrile | 15.4 g | [N+](=O)([O-])C1=CC=C(O1)C1=NNC=C1C#N | C8H4N4O3
reactant | sodium hydride | 2.5 g | [H-].[Na+]
reactant | methyl iodide | 11.8 g | CI | CH3I
reactant | acetic acid | 0.6 g | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carbonitrile | 57% yield | CN1N=C(C(=C1)C#N)C=1OC(=CC1)[N+](=O)[O-] | C9H6N4O3
